US09238644B2
The 3-(4-aminophenyl)piperidine regioisomers of G14 can be prepared by reaction of commercially available compounds of the formula F5, where L3=I or Br, with pyridin-3-ylboronic acid (G18) in a Suzuki type reaction to form 3-(4-nitrophenyl)pyridine (G19). Reduction of G19 with hydrogen in the presence of a catalyst, for example platinum oxide, gives 4-(piperidin-3-yl)aniline (G20) which may be protected using Boc anhydride to give tert-butyl 3-(4-aminophenyl)piperidine-1-carboxylate (G21).

reactant | hydrogen | [H][H] | H2
reactant | 4-(piperidin-3-yl)aniline | N1CC(CCC1)C1=CC=C(N)C=C1 | C11H16N2
reactant | Boc anhydride | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
catalyst | platinum oxide | [Pt]=O
product | tert-butyl 3-(4-aminophenyl)piperidine-1-carboxylate | NC1=CC=C(C=C1)C1CN(CCC1)C(=O)OC(C)(C)C | C16H24N2O2
